US06992107B1
4-Fluorobenzyl 5-amino-4-oxopentanoate hydrochloride [compound 15]
From 4-fluorobenzyl alcohol (5.0 g; 40 mmol) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol). The reaction was complete after 3 h at 90° C. The yield was 1.02 g (62%).

reactant | 4-fluorobenzyl alcohol | 40 mmol, 5.0 g | FC1=CC=C(CO)C=C1 | C7H7FO
reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
product | 4-Fluorobenzyl 5-amino-4-oxopentanoate hydrochloride | Cl.NCC(CCC(=O)OCC1=CC=C(C=C1)F)=O | InChI=1S/C12H14FNO3.ClH/c13-10-3-1-9(2-4-10)8-17-12(16)6-5-11(15)7-14;/h1-4H,5-8,14H2;1H
